US07129234B2
3-Chloro-isonicotinonitrile
The title compound was prepared by a modified procedure based on the method of J. Rokach and Y. Girard, J. Heterocycl. Chem. 1978, 15, 683–684. 4-Cyanopyridine-N-oxide (250 g, 2.08 mol) was added portionwise to a stirred suspension of PCl5 (599.94 g, 2.88 mol) and POCl3 (800 mL, 8.71 mol) at 20° C. under nitrogen, in a reactor fitted with a reflux condensor. During the addition the temperature rose to 41° C. The mixture was stirred at 100° C. for 3 h then cooled to 95° C. and transferred to a mixture of 6M HCl (200 mL) and a 6:4 mixture of ice and water (5994 g) at such a rate that the temperature stayed below 15° C. (about 35 min). The resulting brown solution was cooled to below 5° C. and taken to pH 4.15 by adding 33% aqueous NaOH (about 4.5 L), keeping the temperature below 5° C. The resulting beige precipitate was filtered and washed thoroughly with water (4×500 mL), sucking as dry as possible. The residue was suspended in water (1.5 L) and n-heptane (7 L) and stirred at 30° C. for 1 h. The aqueous phase was separated and extracted further with n-heptane (2×2 L), stirring for 30 min each time at 30° C. The combined heptane layers were combined, dried (Na2SO4, 136 g), filtered and the resulting solution was concentrated under reduced pressure to a weight of 1.9 kg (about 3 L), at which point the product began to crystallise. The mixture was cooled to 0° C., stirred for 1.5 h then the product was filtered, washed with cold n-heptane (2×125 mL) and dried at room temperature in a circulating air drier to give the product (129.08 g, 44.8%) as a crystalline solid; m.p. 73.4° C.

reactant | 4-Cyanopyridine-N-oxide | 2.08 mol, 250 g | C(#N)C1=CC=[N+](C=C1)[O-] | C6H4N2O
reactant | PCl5 | 2.88 mol, 599.94 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | POCl3 | 8.71 mol, 800 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | HCl | 6M, 200 mL | Cl | ClH
reactant | NaOH | about 4.5 L | [OH-].[Na+]
solvent | water | 5994 g | O | H2O
product | 3-Chloro-isonicotinonitrile | ClC1=C(C#N)C=CN=C1 | C6H3ClN2
